US09388173B2
Step 1: 6-Bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine
To a solution of 6-bromo-1H-pyrrolo[2,3-b]pyridine (500 mg, 2.55 mmol) in DMF (10 mL) was added NaH (306 mg, 7.65 mmol, m %/60%). The mixture was stirred at room temperature for 1 h and then MeI (398 mg, 2.8 mmol) was added. The reaction mixture was then stirred at room temperature for 4 h after which, TLC showed the completion of the reaction. The reaction mixture was quenched by addition of water and then extracted with EtOAc. Combined organic layers were concentrated and the residue was purified by Prep-TLC (PE:EA=5:1) to give the desired product (200 mg) which was used directly in the next step.

reactant | 6-bromo-1H-pyrrolo[2,3-b]pyridine | 2.55 mmol, 500 mg | BrC1=CC=C2C(=N1)NC=C2 | C7H5BrN2
reactant | NaH | 7.65 mmol, 306 mg | [H-].[Na+]
reactant | MeI | 2.8 mmol, 398 mg | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine | 200 mg | BrC1=CC=C2C(=N1)N(C=C2)C | C8H7BrN2
